US07579359B2
A solution of N-(4-chloroquinolin-3-yl)butyramide (3.3 g, 13 mmol, 1.0 eq) and O-benzylhydroxylamine hydrochloride (4.23 g, 26.5 mmol, 2.0 eq) in ethanol (150 mL) was heated at reflux for 3 hours. The reaction mixture was concentrated under reduced pressure. The residue was diluted with dichloromethane, washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by column chromatography (silica gel eluting with 3% methanol in dichloromethane) to provide 1.20 g of 1-benzyloxy-2-propyl-1H-imidazo[4,5-c]quinoline.

reactant | N-(4-chloroquinolin-3-yl)butyramide | 13 mmol, 3.3 g, 1.0 eq | ClC1=C(C=NC2=CC=CC=C12)NC(CCC)=O | C13H13ClN2O
reactant | O-benzylhydroxylamine hydrochloride | 26.5 mmol, 4.23 g, 2.0 eq | Cl.C(C1=CC=CC=C1)ON
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 1-benzyloxy-2-propyl-1H-imidazo[4,5-c]quinoline | 1.20 g | C(C1=CC=CC=C1)ON1C(=NC=2C=NC=3C=CC=CC3C21)CCC | C20H19N3O
